US07910751B2
<Step 1> Synthesis of 2,3-dichloro-5-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)pyridine
3,4-Dihydro-2H-pyran (1.1 mL) and tin (II) chloride dihydrate (0.38 g) were added to a chloroform solution of 2,3-dichloro-5-hydroxymethylpyridine (1.5 g), and the reaction mixture was stirred at room temperature for 63 hours. The reaction mixture was filtered, and the solvent was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=100:0 to 90:10). The title compound (1.7 g) was obtained as colorless oil.

reactant | 3,4-Dihydro-2H-pyran | 1.1 mL | O1CCCC=C1 | C5H8O
reactant | tin (II) chloride dihydrate | 0.38 g | O.O.[Sn](Cl)Cl
reactant | 2,3-dichloro-5-hydroxymethylpyridine | 1.5 g | ClC1=NC=C(C=C1Cl)CO | C6H5Cl2NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dichloro-5-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)pyridine | 1.7 g | ClC1=NC=C(C=C1Cl)COC1OCCCC1 | C11H13Cl2NO2
